US07517910B2
Methyl 3-(4-{[3-(1-tert-butoxycarbonyl-1H-indol-5-yl)benzyl]oxy}phenyl)propanoate (3.8 g, 7.83 mmol) was dissolved in a mixed solvent of tetrahydrofuran (30 mL) and methanol (30 mL), and the mixture was ice-cooled. An aqueous solution (10 mL) of 85% potassium hydroxide (1.0 g, 15.1 mmol) was added to the solution, and the mixture was stirred at room temperature for 18 hr. The reaction solution was diluted with ethyl acetate, and the mixture washed successively with aqueous citric acid solution, water and aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained oil was crystallized from diethyl ether-hexane to give 3-(4-{[3-(1H-indol-5-yl)benzyl]oxy}phenyl)propanoic acid (2.2 g, yield 76%) as colorless needle crystals. MS: m/z 372 (MH+).

reactant | Methyl 3-(4-{[3-(1-tert-butoxycarbonyl-1H-indol-5-yl)benzyl]oxy}phenyl)propanoate | 7.83 mmol, 3.8 g | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)C=1C=C(COC2=CC=C(C=C2)CCC(=O)OC)C=CC1 | C30H31NO5
reactant | potassium hydroxide | 15.1 mmol, 10 mL, 1.0 g | [OH-].[K+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | methanol | 30 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-{[3-(1H-indol-5-yl)benzyl]oxy}phenyl)propanoic acid | 2.2 g, yield 76% | N1C=CC2=CC(=CC=C12)C=1C=C(COC2=CC=C(C=C2)CCC(=O)O)C=CC1 | C24H21NO3
